US06930109B2
8-Oxo-8H-5-oxa-1-aza-phenanthrene-6-carboxylic acid ethyl ester
To 4-oxo-8-propenyl-7-(2,2,2-trifluoro-acetylamino)-4H-chromene-2-carboxylic acid ethyl ester (3.7 g, 10 mmole) in 100 mL of dioxan was added 4.4 g (40 mmole) of selenium dioxide. The mixture was refluxed under nitrogen for 5 hours. An additional 1.0 g of selenium dioxide was added and reflux continued for 8 hours. After the reaction had cooled, 500 mL of water was added and the mixture was extracted with first 300 mL and then 200 mL of ethyl acetate. The combined organic extracts were washed with water and with saturated brine, dried over sodium sulfate, filtered and evaporated in vacuum to give 2.0 g of the title compound as a yellow solid. An analytically pure sample of yellow solid (m.p. 146-147° C.) was obtained by column chromatography on silica gel with 0-5% ethyl acetate/methylene chloride as eluant.

reactant | 4-oxo-8-propenyl-7-(2,2,2-trifluoro-acetylamino)-4H-chromene-2-carboxylic acid ethyl ester | 10 mmole, 3.7 g | C(C)OC(=O)C=1OC2=C(C(=CC=C2C(C1)=O)NC(C(F)(F)F)=O)C=CC | C17H14F3NO5
reactant | selenium dioxide | 40 mmole, 4.4 g | [Se](=O)=O | O2Se
reactant | selenium dioxide | 1.0 g | [Se](=O)=O | O2Se
reactant | water | 500 mL | O | H2O
solvent | dioxan | 100 mL | O1CCOCC1 | C4H8O2
product | 8-Oxo-8H-5-oxa-1-aza-phenanthrene-6-carboxylic acid ethyl ester | 2.0 g | C(C)OC(=O)C=1OC2=C3C=CC=NC3=CC=C2C(C1)=O | C15H11NO4
